2163-05-26 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2163-5-25**] 04:18 PM
 ARTERIAL LINE - START [**2163-5-25**] 04:52 PM
 ULTRASOUND - At [**2163-5-25**] 04:54 PM
 MULTI LUMEN - START [**2163-5-25**] 05:01 PM
 EKG - At [**2163-5-26**] 05:30 AM
   - Off all pressors
   - Pulled ET tube back
   - Cards saw, recommended no heparin for likely not ACS
   - CVL, A-line placed
   - RUQ ultrasound with mildly distended GB, cannot rule out
   cholecystitis
   - CT torso done
   Allergies:
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2163-5-25**] 09:01 PM
   Metronidazole - [**2163-5-25**] 09:54 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-5-26**] 02:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-5-26**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.3
   HR: 73 (57 - 109) bpm
   BP: 113/52(70) {85/40(54) - 161/73(360)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  3,656 mL
                                                                    555 mL
   PO:
   TF:
   IVF:
                                                                  3,656 mL
                                                                    555 mL
   Blood products:
   Total out:
                                                                    520 mL
                                                                    155 mL
   Urine:
                                                                    520 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,136 mL
                                                                    402 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.47/30/198/20/0
   Ve: 7.1 L/min
   PaO2 / FiO2: 495
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   167 K/uL
   10.8 g/dL
   98 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.4 mEq/L
   27 mg/dL
   108 mEq/L
   138 mEq/L
   32.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2163-5-25**]  02:58 PM
                             [**2163-5-25**]  04:24 PM
                             [**2163-5-25**]  04:43 PM
                             [**2163-5-25**]  11:15 PM
                             [**2163-5-25**]  11:45 PM
                             [**2163-5-26**]  04:16 AM
   WBC
   16.7
   13.2
   Hct
   32.7
   32.6
   Plt
   198
   167
   Cr
   1.7
   1.4
   TropT
   0.22
   0.91
   TCO2
   25
   25
   22
   Glucose
   95
   98
   Other labs: PT / PTT / INR:15.6/38.9/1.4, CK / CKMB /
   Troponin-T:211/34/0.91, ALT / AST:19/54, Alk Phos / T Bili:69/0.7,
   Amylase / Lipase:275/30, Differential-Neuts:86.0 %, Lymph:7.9 %,
   Mono:4.8 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL,
   LDH:266 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.1 mg/dL
   Alk phos: 26
   Troponin:  .11 ([**5-24**])
.22 ([**5-25**])
   CK:  82
211 /  CK-MB 9
   RUQ US [**5-25**]:  Mild gallbladder distension. Cholecystitis cannot be
   excluded.
   CT Torso (PO contrast only) wetread:
   bibasilar L>R 1consolidation, new compared to CT of [**2163-5-22**], could
   represent
   aspiration/atelectasis/infection. small R> L pleural effusions is
   increased.
   elongated 4.7 x 2.6 x 2.8 cm well-circumscribed fluid containing
   structure
   arises subcarinal ?pericardium and extends to right hilum ?pericardial
   cyst.
   assessment of solid viscera lmtd w/o IV contrast. gallbladder distended
   with
   stone, ?sludge, wall thickening and pericholecystic fluid, suggesting
   cholecystitis.. no definite biliary dilatation seen (limited
   assessment). no
   free air/fluid. colonic diverticulosis w/o diverticulitis. no bowel
   obstruction
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, SEPTIC
 PNEUMONIA, ASPIRATION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   #) Hypotension:  Much improved today and has not required any pressors
   since the peri-intubation period.  Her initial presentation was
   concerning for sepsis vs cardiac cause. Possible etiologies of sepsis
   would include gallbladder, although no evidence of ductal dilatation on
   US or CT, so cholangitis doesn
t seem to have be at play.  UA  not
   revealing for a source.  She had been on ciprofloxacin and
   metronidazole but may have been harboring a resistant microbe that is
   now being covered adequately by  pip-tazo and vancomycin.  Cardiac
   cause is also possible given evidence of NSTEMI (as below), although
   elevated WBC and bandemia point away from this as a primary event.
   Medication effect is likely also at play, as she was beta blocked at
   the time of the trigger.
   - check venous O2 Sat
   - discuss with surgery whether a percutaneous cholecystostomy may be
   helpful
   - f/u final read CT torso
   - continue vancomycin and Zosyn for broad coverage for now
   - f/u cultures
   - pursue cardiac work-up, as below
   .
   #) Cholecystitis:  Has been medically managed on the surgical team
   prior to transfer.  Appears worse on last night
s CT compared to
   admission.  No evidence of ductal dilatation.
   - discuss with the surgical team the possibility of percutaneous
   cholecystostomy (need to clarify with them that her ongoing cardiac
   issues should not preclude surgical or IR-guided intervention if other
   wise indicated)
   - continue antibiotics as above
   .
   #) NSTEMI:  Cardiac enzymes continuing to rise, now with troponin .91
   and positive MB index. She likely has had cardiac ischemia in the
   setting of sepsis-induced catecholamine surger.  She does have a known
   history of CAD.  It is unclear if an element of cardiac failure,
   possibly secondary to ischemia, may have contributed to her hypotension
   and hypoxia.   After discussion with cardiology, there are no plans for
   heparinization currently (in part because operative management of
   cholecycstitis was being considered) but may want to re-consider this
   if there are no plans for procedure.
   - trend enzymes
   - obtain OSH echo
   - repeat echo with attention to any new wall motion abnormalities
   - discuss with cardiology heparinization
   - no plans for catheterization currently
   - continue aspirin
   - increase statin to atorvastatin 80 mg daily
   - restart low-dose beta blocker, as BP has been fine since intubation.
   .
   #) Respiratory failure:  Intubated yesterday secondary to intermittent
   hypoxia, increased work of breathing, and need to protect airway for
   line placement.  Differential for cause includes aspiration, CHF,
   pulmonary infection.  Lung CT does show bibasilar consolidation.  Most
   recent ABG shows hyperventilation, and her O2 Sats and PaO2 overnight
   have been excellent.
   - f/u BNP
   - repeat echo, as above
   - decrease RR to improve respiratory alkalosis
   - f/u I/O, consider gentle diuresis to minimize pulmonary edema prior
   to trial of extubation
   - continue nebulizers given asthma history
   - consider extubation later today
   ..
   #) Acute renal failure:  Likely secondary to poor renal perfusion in
   the setting of hypotension.   Improving today, as is urine output.
   Urine lytes have still not been sent
   - f/u urine lytes
   - f/u urine culture
   .
   #) Pericardial cyst:  seen on CT incidentally.   Cardiology aware.
   - re-evaluate on TTE
   ICU Care
   Nutrition: NPO for now, would consider TF if not extubated promptly
   Glycemic Control:
   Lines:
   20 Gauge - [**2163-5-25**] 01:19 PM
   Arterial Line - [**2163-5-25**] 04:52 PM
   Multi Lumen - [**2163-5-25**] 05:01 PM
   Prophylaxis:
   DVT:  SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition: ICU for now

2163-05-28 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2163-5-27**] 05:42 PM
   - per cards: heparin for total of 3 days, cont ASA, avoid surgery, beta
   block as tolerated, lisinopril 10' when stable; [**First Name8 (NamePattern2) 24**] [**Doctor Last Name **], don't
   diurese as not fluid overloaded.
   - pt extubated
   Allergies:
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2163-5-25**] 09:54 PM
   Vancomycin - [**2163-5-27**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2163-5-27**] 05:54 PM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2163-5-27**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-5-28**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 74 (57 - 79) bpm
   BP: 116/47(72) {96/32(54) - 135/63(86)} mmHg
   RR: 30 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
    CVP: 6 (3 - 9)mmHg
   Total In:
                                                                  1,823 mL
                                                                    112 mL
   PO:
   TF:
   IVF:
                                                                  1,243 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    260 mL
   Urine:
                                                                  2,545 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -722 mL
                                                                   -148 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 320 (317 - 320) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.41/39/112/25/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, oriented and conversant
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat:  moist MM
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   168 K/uL
   9.1 g/dL
   82 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.6 mEq/L
   21 mg/dL
   109 mEq/L
   142 mEq/L
   27.5 %
   14.1 K/uL
        [image002.jpg]
                             [**2163-5-25**]  11:45 PM
                             [**2163-5-26**]  04:16 AM
                             [**2163-5-26**]  09:49 AM
                             [**2163-5-26**]  02:30 PM
                             [**2163-5-26**]  11:30 PM
                             [**2163-5-27**]  03:07 AM
                             [**2163-5-27**]  06:28 AM
                             [**2163-5-27**]  03:17 PM
                             [**2163-5-27**]  05:24 PM
                             [**2163-5-28**]  03:47 AM
   WBC
   13.2
   14.9
   16.8
   14.1
   Hct
   32.6
   30.1
   30.5
   27.5
   Plt
   167
   168
   192
   168
   Cr
   1.4
   1.2
   1.1
   1.1
   TropT
   0.91
   0.88
   0.55
   0.51
   TCO2
   22
   24
   23
   24
   26
   Glucose
   98
   124
   96
   82
   Other labs: PT / PTT / INR:13.6/68.2/1.2, CK / CKMB /
   Troponin-T:37/4/0.51, ALT / AST:18/32, Alk Phos / T Bili:127/0.6,
   Amylase / Lipase:275/30, Differential-Neuts:85.3 %, Lymph:8.6 %,
   Mono:4.8 %, Eos:1.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.6 g/dL,
   LDH:264 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SHOCK, SEPTIC
 PNEUMONIA, ASPIRATION
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   [**Age over 90 **]yF with significant cardiac history admitted with cholecystitis,
   transferred to [**Hospital Unit Name 10**] for sepsis & MI.  Now extubated and doing better.
   #) Respiratory failure:  Extubated yesterday.  Still likely has some
   degree of fluid overload.  Her O2 Sats are good on 3L NC.
   - aim for volume net even to negative
   - Continue MDIs
   - wean O2 as tolerated
   #) Polymicrobial bacteremia:  The patient has blood cultures positive
   of GPCs and GPRs.  GPRs may be contaminant.  GPC possibly enterococcus,
   possibly from to biliary sourc.e  She is hemodynamically stable and not
   requiring pressors.  On vanc and zosyn.
   - continue Vanc to 1g IV q24
   - Continue Zosyn
   - F/U Blood cultures including sensitivities
   #) Cholecystitis:  Continues to be medically managed by comanaging
   surgical team.   Alk phos mildly elevated today without increase in
   bili.
   - continue antibiotics as above
   - continue to monitor
   #) NSTEMI:  Patient suffered NSTEMI while septic.  Troponins have
   peaked and are trending downward.
   -Continue Heparin gtt, statin, ASA, BB
   - plan to stop heparin gtt, as it has been 48 hours
   - consider ACEI
   #) Acute renal failure:  Likely secondary to poor renal perfusion in
   the setting of hypotension.   Improving today, as is urine output.
   - f/u urine culture
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2163-5-25**] 04:52 PM
   Multi Lumen - [**2163-5-25**] 05:01 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition: call-out to floor today